US04546174
Using the method and quantities of Example 2, but replacing the `Arquad 16-29` by the surfactants listed below (in the proportions of 1.6% wt/wt based on total 2-amino-2-methylpropanenitrile used) gave 2,2'-azobis(2-methylpropanenitrile) in the yields indicated.

reactant | 2-amino-2-methylpropanenitrile | NC(C#N)(C)C | C4H8N2
catalyst | Arquad 16-29 | CCCCCCCCCCCCCCCC[N+](C)(C)C.[Cl-]
product | 2,2'-azobis(2-methylpropanenitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
